US08859536B2
5-nitro-1H-indazol-3(2H)-one (11A)
Hydrazine hydrate (4 mL, 124 mmol) was added to a solution of 2-chloro-5-nitro benzoic acid (5 g, 24.8 mmol) in absolute ethanol (30 mL), and the resulting mixture was refluxed for 16 h. The reaction mixture was concentrated under reduced pressure. Residue was trituated with methanol to give 6.5 g of crude intermediate. 2N aq. HCl (40 mL) was added to the crude product, and the mixture was refluxed for 8 h. Reaction mixture was cooled to 0° C., solids were collected via filtration, washed with cold water and dried under vacuum. Residue was purified by flash chromatography using 1% methanol in chloroform as eluent to afford title compound (2 g, 27%) as a solid. 1H NMR (400 MHz, DMSO-d6): δ 12.4 (bs, 1H), 11.3 (bs, 1H), 8.67 (s, 1H), 8.12 (dd, J1=2.1 Hz, J2=9.0 Hz, 1H), 7.5 (d, J=9.0 Hz, 1H); ESI-MS m/z: 179 (M+H)+.

reactant | Hydrazine hydrate | 124 mmol, 4 mL | O.NN
reactant | 2-chloro-5-nitro benzoic acid | 24.8 mmol, 5 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | HCl | 2N, 40 mL | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 5-nitro-1H-indazol-3(2H)-one | 2 g, 27% | [N+](=O)([O-])C=1C=C2C(NNC2=CC1)=O | C7H5N3O3
